US06476045B2
5-Chloro-2-(4-chlorophenyl)-1H-indole-3-propanoic acid
Triethylamine (5 mL, 3.6 g, 36 mmol) was added dropwise to a stirred suspension of 4-chloro-δ-oxobenzenepentanoic acid (7.91 g, 35 mmol) and (4-chlorophenyl)hydrazine hydrochloride (6.29 g, 35 mmol) in ethanol (54 mL) and the mixture was stirred at room temperature for 3 h. Ether (500 mL) was added, the mixture was filtered and the solvent was evaporated under reduced pressure. The residue was added slowly to trifluoroacetic acid (120 mL) and the mixture was heated under reflux for 2 h. The mixture was cooled, water (250 mL) was added and the mixture was extracted with ethyl acetate (300 mL). The organic fraction was washed with brine (30 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was recrystallized from EtOAc/isohexane to give the title compound (7.6 g, 65%). 1H NMR (250 MHz, DMSO-d6) δ 12.01 (1H, br s), 11.36 (1H, s), 7.56-7.47 (5H, m), 7.26 (1H, d, J 8.5 Hz), 7.01 (1H, dd, J 8.5, 2.0 Hz), 2.96 (2H, t, 8.0 Hz), and 2.43 (2H, t, 8.0 Hz).

reactant | Triethylamine | 36 mmol, 5 mL, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-δ-oxobenzenepentanoic acid | 35 mmol, 7.91 g | ClC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11ClO3
reactant | (4-chlorophenyl)hydrazine hydrochloride | 35 mmol, 6.29 g | Cl.ClC1=CC=C(C=C1)NN
reactant | Ether | 500 mL | CCOCC | C4H10O
solvent | ethanol | 54 mL | C(C)O | C2H6O
product | 5-Chloro-2-(4-chlorophenyl)-1H-indole-3-propanoic acid | 7.6 g, 65% | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)Cl)CCC(=O)O | C17H13Cl2NO2
